Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / medication given for low heart rate unknown name
 
Attending: ___.
 
Chief Complaint:
cough
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ w/ h/o p-afib on coumadin, dCHF, CAD (s/p distant stent in 
unclear location) who presents with cough x10 days, productive 
of ___ sputum. He has been orthopneic during this time, and as 
of the last two days, has been dyspneic on exertion (walking up 
the stairs). Cough was associated with rhinorrhea and 
congestion, but no myalgias, fatigue, fevers, or chills. Legs 
are swollen bilaterally, but no different than his baseline. He 
has not taken Lasix in the past year. He states that after 
losing a significant amount of weight ___ years ago (280 lb -> 
238 lb), he has gained weight over the last year back to 261 lb. 
He denies chest pain or recent diet change.  

In the ED intial vitals were:  97.8 90 122/78 16 89% RA. The 
patient subsequently had episodes of Afib w/RVR with HRs up to 
the 120s, and admitted that he had missed his AM dose of 
metoprolol earlier. He was given 75 mg metoprolol tartrate (his 
home dose) and 40 IV lasix. He was placed on 3L NC w/ sats in 
the low ___. INR 2.4.  

Vitals on transfer: 97.8 71 126/87 20 95% RA.  

Upon arriving to the floor, post-Lasix, patient urinated 700 ccs 
and feels less dyspneic; he is now able to lay at double the 
angle he was able to previously.  

 
Past Medical History:
1. CARDIAC RISK FACTORS: Dyslipidemia, Hypertension  
2. CARDIAC HISTORY: 
- pAF, on coumadin
- ___ on lasix 
- CAD s/p stent, neg EKG stress ___ 
- CABG: None 
- PERCUTANEOUS CORONARY INTERVENTIONS: PCI ___, ___, Dr. ___, 
___ anatomy or type of stent  
- PACING/ICD: None  
3. OTHER PAST MEDICAL HISTORY:
Anxiety, obesity, trauma, hernia repair, osteoarthritis,
depression.

PAST SURGICAL HISTORY:  
ex-lap s/p MVC ___
tracheostomy ___
ventral hernia repair with mesh ___ 
open incisional hernia repair with mesh ___

 
Social History:
___
Family History:
Father died of MI (___)
 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION:  
VS: 98.4  125/94  98  24  88% RA (96% 2L)
Wt: 118.6 kg
GENERAL: WDWN male in NAD. Mood, affect appropriate.  
NECK: JVP not elevated  
CARDIAC: Irregularly irregular, rate not tachycardic, no m/r/g  
LUNGS: mild bibasilar crackles, faint scattered wheezes 
ABDOMEN: Soft, NTND. No HSM or tenderness.   
EXTREMITIES: ___ pitting edema in feet bilaterally  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: 2+ PTs, 1+ DPs bilaterally  

PHYSICAL ESAMINATION ON DISCHARGE:
VS: 98.7 ___ 60 94% on RA
Wt: 117 kg
GENERAL: WDWN male in NAD. Mood, affect appropriate.  
NECK: supple, JVP not flat. 
CARDIAC: regular rate and rhythm, S1, S2 without m/r/g 
LUNGS: clear to auscultation bilaterally, no wheezes, crackles, 
rhonchi
ABDOMEN: Obese, soft, NTND. No HSM or tenderness. +BS   
EXTREMITIES: trace pitting edema in feet bilaterally  
SKIN: dry skin on bilateral lower extremities, dry flaking skin 
on forehead and by bilateral eyebrows  
PULSES: 2+ PTs, 1+ DPs bilaterally  

 
Pertinent Results:
LABS ON ADMISSION:
================
___ 11:40AM BLOOD WBC-8.1 RBC-5.21 Hgb-17.5 Hct-51.7 
MCV-99* MCH-33.5* MCHC-33.8 RDW-14.8 Plt ___
___ 11:40AM BLOOD Neuts-72.7* Lymphs-15.4* Monos-8.7 
Eos-2.4 Baso-0.8
___ 11:40AM BLOOD ___ PTT-56.9* ___
___ 11:40AM BLOOD Glucose-89 UreaN-14 Creat-1.0 Na-138 
K-3.8 Cl-100 HCO3-25 AnGap-17
___ 11:40AM BLOOD cTropnT-<0.01 proBNP-1422*
___ 12:07PM BLOOD Lactate-2.0

PERTINENT LABS:
===============
___ 06:35AM BLOOD WBC-9.2 RBC-4.81 Hgb-16.4 Hct-48.4 
MCV-101* MCH-34.1* MCHC-33.9 RDW-14.4 Plt ___

LABS ON DISCHARGE:
=================
___ 06:40AM BLOOD ___
___ 06:40AM BLOOD Glucose-93 UreaN-17 Creat-1.0 Na-137 
K-3.7 Cl-96 HCO3-31 AnGap-14
___ 06:40AM BLOOD Calcium-9.2 Phos-3.6 Mg-2.1

STUDIES:
================
CHEST (PA & LAT) (___): Lung volumes are extremely low, but 
atelectasis is only moderately severe, left lung base greater 
than right.  Upper lungs are entirely clear. There is no 
pulmonary edema or pleural effusion. Heart size is normal. 
 

TTE (___): The left atrium is mildly dilated. Regional left 
ventricular wall motion is normal. Overall left ventricular 
systolic function is normal (LVEF>55%). Right ventricular 
chamber size and free wall motion are normal. The aortic root is 
mildly dilated at the sinus level. The ascending aorta is mildly 
dilated. There is no aortic valve stenosis. No aortic 
regurgitation is seen. Trivial mitral regurgitation is seen. 
There is no pericardial effusion. 

IMPRESSION: Technically-difficult study. Normal global and 
regional biventricular systolic function.

Compared with the prior study (images reviewed) of ___, 
the findings are similar.  
 
Brief Hospital Course:
___ w/ hx of p-afib on coumadin, ___, CAD (s/p distant stent in 
unclear location) who presents with cough x10 days, productive 
of ___ sputum, orthopnea and dyspnea. Patient found to be 
volume overloaded on exam, with elevated BNP. Patient's 
presentation consistent with viral URI and diastolic heart 
failure exacerbation. Patient symptoms improved with diuresis 
and patient was without shortness of breath or dyspnea on 
exertion at discharge.   

=====================
ACTIVE MEDICAL ISSUES
===================== 

# Acute on Chronic ___: Patient presented with dyspnea on 
exertion, orthopnea, BNP 1422, and improvement in symptoms after 
Lasix diuresis consistent with heart failure exacerbation. TTE 
showed preserved EF >55% which was unchanged from prior. Of note 
patient had not taken lasix in ___ year. Possibly contributing 
factors are Afib, lasix non compliance, HTN, undiagnosed OSA. 
Patient responded well to 40mg IV lasix, transitioned to 60mg PO 
lasix daily on discharge with potassium supplementation 20mEq PO 
daily. He did not have shortness of breath at rest or with 
exertion on discharge. He will follow up with PCP ___ 
Dr. ___ in cardiology.  

# pAfib: Patient found to be in Afib w/RVR in ED, but 
asymptomatic during episode. Patient had missed home dose of 
metoprolol tartrate 75mg PO BID. CHADS2 of 2. Chronically 
anticoagulated with warfarin with therapeutic INR 2.4. Afib with 
RVR most likely secondary to missing dose of home medication as 
well as volume overload with atrial stretch. Patient continued 
on home metoprolol tartrate 75mg PO BID with return to normal 
sinus rhythm with heart rates in the ___ on discharge. Patient 
transitioned to metoprolol succinate 150mg PO daily prior to 
discharge and continued on home coumadin 6mg PO daily. Patient 
will follow up with PCP, ___, and outpatient 
cardiology. 

#Viral URI: Patient with productive cough, rhinorrhea, and 
congestion. No fever, leukocytosis, or infiltrate on initial CXR 
to suggest bacterial etiology. Patient started on flonase nasal 
spray 1 spray each nostril daily with improvement in symptoms. 
Patient to continue flonase for 1 week at discharge. 
 

======================
CHRONIC MEDICAL ISSUES
======================
# CAD: No evidence of ischemia based on no ischemic changes on 
EKG, negative troponin, and no focal wall motion abnormalities 
on TTE. Continued patient's home simvastatin, aspirin, and beta 
blocker adjusted as above.

# Hypertension: SBP currently well-controlled during this 
admission, adjusted home metoprolol as above, no need or further 
indication to add additional agent at this time. 

# Anxiety/Depression: Continued home Aripiprazole and 
citalopram.  

# Osteoarthritis: Continued tylenol as needed for pain control. 

TRANSITIONAL ISSUES:
=========================
[] Diastolic Heart Failure exacerbation: Patient discharged on 
lasix 60mg PO daily, potassium 20mEq daily, please check 
electrolytes at f/u PCP visit on ___ and titrate lasix as 
needed

[] Paroxysmal atrial fibrillation: patient in sinus rhythm on 
discharge. Transitioned from home metoprolol 75mg PO BID to 
metoprolol succinate 150mg PO daily. Please monitor heart rate 
and blood pressure at f/u PCP ___. Patient remained with 
therapeutic INR, continued on home coumadin 6mg PO daily.
 
[] Concern for sleep apnea: Patient with elevated Hct, obesity, 
concern for sleep apnea. Please consider sleep study as 
outpatient. 

[] Concern for MDS: Patient with elevated Hct, low platelets 
120s-130s, would repeat CBC at f/u visit, consider further 
workup for MDS if persistent. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Aripiprazole 5 mg PO DAILY 
3. Citalopram 40 mg PO DAILY 
4. Metoprolol Tartrate 75 mg PO BID 
5. Simvastatin 80 mg PO DAILY 
6. Warfarin 6 mg PO DAILY16 
7. Zolpidem Tartrate 10 mg PO HS:PRN insomnia 
8. ClonazePAM 0.5 mg PO BID anxiety 
9. Acetaminophen 325-650 mg PO Q6H:PRN pain 

 
Discharge Medications:
1. Aripiprazole 5 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Citalopram 40 mg PO DAILY 
4. ClonazePAM 0.5 mg PO BID anxiety 
5. Simvastatin 80 mg PO DAILY 
6. Warfarin 6 mg PO DAILY16 
7. Zolpidem Tartrate 10 mg PO HS:PRN insomnia 
8. Fluticasone Propionate NASAL 1 SPRY NU BID 
RX *fluticasone 50 mcg 1 spray intranasal daily Disp #*1 Spray 
Refills:*0
9. Metoprolol Succinate XL 150 mg PO DAILY 
RX *metoprolol succinate 50 mg 3 tablet(s) by mouth daily Disp 
#*90 Tablet Refills:*0
10. Furosemide 60 mg PO DAILY 
RX *furosemide 40 mg 1.5 tablet(s) by mouth daily Disp #*45 
Tablet Refills:*0
11. Potassium Chloride 20 mEq PO DAILY 
RX *potassium chloride 10 mEq 2 capsule(s) by mouth daily Disp 
#*60 Capsule Refills:*0
12. Acetaminophen 325-650 mg PO Q6H:PRN pain 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Diastolic Heart Failure Exacerbation
Secondary: Paroxysmal Atrial Fibrillation
           Viral Upper Respiratory Infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your recent 
admission to the ___. You came 
into the hospital because of cough and shortness of breath. We 
found that you had a fast heart rate as well as extra fluid in 
your legs and in your lungs from a heart failure exacerbation. 
An ultrasound of your heart showed that it is pumping with 
normal function but doesnt fill as well as normal. We treated 
your heart failure with a "water pill" called lasix. You will 
continue to take this medication, 60mg, daily. You will also 
need to take potassium supplementation (20mEq) daily as the 
water pill can cause your potassium to be low.

Please weigh yourself everyday and call your doctor if your 
weight goes up by 3 pounds or more.

We treated your heart rate with your home medication metoprolol 
and switched to a long acting form so you will take 1 of the new 
pill daily to control your heart rate.  Please follow up with 
your outpatient primary care physician and cardiologist as 
detailed below.

We also have treated you for a viral upper respiratory tract 
infection with a nasal steroid. 

If you should develop chest pain, palpitations, shortness of 
breath, fever, chills, lightheadedness please call your primary 
care physician or report to the emergency department.

Be well and take care.

Sincerely,

Your ___ Care Team
 
Followup Instructions:
___